US20010056179A1
A mixture of racemic 5-methoxy-2-aminotetraline-2-carboxylic acid (prepared according to Obrecht, D. et. al. Helv. Chim Acta. 1992, 75, 1666) (802 mg, 3.62 mmole), triethylamine (0.62 ml, 4.45 mmole), 9-fluorenylmethyl succinimidyl carbonate (Fmoc-OSu, 1.47 g, 4.36 mmole) in acetonitrile (25 ml) and water (25 ml) was stirred at room temperature for 30 hours. TLC analysis of the reaction indicated the presence of starting material amino acid. 9-fluorenylmethyl succinimidyl carbonate (370 mg) and triethylamine (0.6 ml) were added and the mixture was stirred at room temperature for another 24 hours. The reaction mixture was concentrated in vacuo to remove most of the acetonitrile, acidified to pH ˜3 with 10% aqueous citric acid solution, and the white emulsion was extracted three times with ethyl acetate. The combined organic layers were washed with water, brine and dried over magnesium sulfate. Filtration and concentration gave a crude oil which was purified by column chromatography (eluted with 1→3→5→10% methanol/methylene chloride) to give racemic Fmoc-5-methoxy-2-aminotetraline-2-carboxylic acid (1.14 g, 71% yield) as an off-white solid. HRMS (FAB): C27H26NO5 (M+H) calc. 444.1812; observed: 444.1814.

reactant | racemic 5-methoxy-2-aminotetraline-2-carboxylic acid | 3.62 mmole, 802 mg | COC1=C2CCC(CC2=CC=C1)(C(=O)O)N | C12H15NO3
reactant | triethylamine | 4.45 mmole, 0.62 ml | C(C)N(CC)CC | C6H15N
reactant | 9-fluorenylmethyl succinimidyl carbonate | 4.36 mmole, 1.47 g | C(OCC1C2=CC=CC=C2C=2C=CC=CC12)(ON1C(CCC1=O)=O)=O | C19H15NO5
reactant | 9-fluorenylmethyl succinimidyl carbonate | 370 mg | C(OCC1C2=CC=CC=C2C=2C=CC=CC12)(ON1C(CCC1=O)=O)=O | C19H15NO5
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | water | 25 ml | O | H2O
product | racemic Fmoc-5-methoxy-2-aminotetraline-2-carboxylic acid | 1.14 g, 71% yield | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C1C(CCC2=C(C=CC=C12)OC)(C(=O)O)N | C27H25NO5
